US09382188B2
G) ethyl 2-(3-(((5-(2-fluoro-5-methoxyphenyl)-6-neopentylpyridin-2-yl)oxy)methyl)phenoxy)acetate
To a solution of, ethyl 2-(3-(((methylsulfonyl)oxy)methyl)phenoxy)acetate (100 mg) and 5-(2-fluoro-5-methoxyphenyl)-6-neopentylpyridin-2-ol (100 mg) in DMF (3.0 mL) was added potassium carbonate (72 mg), and the mixture was stirred at 80° C. for 3 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (77 mg) as a colorless oil.

reactant | ethyl 2-(3-(((methylsulfonyl)oxy)methyl)phenoxy)acetate | 100 mg | CS(=O)(=O)OCC=1C=C(OCC(=O)OCC)C=CC1 | C12H16O6S
reactant | 5-(2-fluoro-5-methoxyphenyl)-6-neopentylpyridin-2-ol | 100 mg | FC1=C(C=C(C=C1)OC)C=1C=CC(=NC1CC(C)(C)C)O | C17H20FNO2
reactant | potassium carbonate | 72 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
product | ethyl 2-(3-(((5-(2-fluoro-5-methoxyphenyl)-6-neopentylpyridin-2-yl)oxy)methyl)phenoxy)acetate | 77 mg | FC1=C(C=C(C=C1)OC)C=1C=CC(=NC1CC(C)(C)C)OCC=1C=C(OCC(=O)OCC)C=CC1 | C28H32FNO5
